US07563910B2
(rac)-1-(2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-2-methyl-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to example 7, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-[2-(trifluoromethoxy)phenyl]-ethanone as compound of formula S, 2,2-dimethyl-1,3-dioxolan-4-methylamine as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 481.5 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-[2-(trifluoromethoxy)phenyl]-ethanone | BrCC(=O)C1=C(C=CC=C1)OC(F)(F)F | C9H6BrF3O2
reactant | 2,2-dimethyl-1,3-dioxolan-4-methylamine | CC1(OCC(O1)CN)C | C6H13NO2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | (rac)-1-(2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-2-methyl-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC=C1)OC(F)(F)F)CC1OC(OC1)(C)C)C | C25H31F3N2O4
